US07462600B2
N-(5-chloro-4-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide (3.0 g, 13.2 mmol) from Preparation 39 Step 2 was treated with concentrated sulfuric acid (19 ml) and allowed to stir for 30 min before cooling in an ice-water bath to between 0-10° C. and adding fuming red nitric acid (0.67 ml) over a 10 min period. The reaction mixture was heated (35° C.) overnight, then diluted with water (40 ml) and extracted with DCM (6×50 ml). The DCM was removed under vacuum and the residue was re-dissolved in conc. HCl (20 ml) and heated to 40° C. for 18 h, then 100° C. for 4 h, and finally 50° C. for 18 h. The mixture was cooled to RT, diluted with water (50 ml), and extracted with DCM (5×40 ml). The aqueous layer was treated with 30% (w/v) NaOH aq. until the pH=12, then extracted with DCM (6×60 ml). These latter extracts were combined, dried over Na2SO4, filtered, and concentrated to yield 5-chloro-4-methyl-3-nitro-pyridin-2-ylamine (1.0 g). 1H NMR (CDCl3) δ 8.15 (s, 1H), 5.93 (br s, 2H), 2.49 (s, 3H).

reactant | N-(5-chloro-4-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 13.2 mmol, 3.0 g | ClC=1C(=CC(=NC1)NC(C(C)(C)C)=O)C | C11H15ClN2O
reactant | sulfuric acid | 19 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.67 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 40 ml | O | H2O
product | 5-chloro-4-methyl-3-nitro-pyridin-2-ylamine | 1.0 g | ClC=1C(=C(C(=NC1)N)[N+](=O)[O-])C | C6H6ClN3O2
